US05250554
2-Butyl-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]benzimidazole
A mixture of 2-butyl-1-[(2'-cyanobiphenyl-4-yl)methyl]benzimidazole (1.8 g), sodium azide (0.98 g) and ammonium chloride (0.80 g) was stirred in DMF (6 ml) at 110° C. for 5 days, while supplementing sodium azide (1.6 g), ammonium chloride (1.3 g) and DMF (5 ml) to the reaction system. To the reaction mixture were added water and ethyl acetate, and precipitating crystals were collected by filtration. The organic layer of the filtrate was washed with water, dried and concentrated under reduced pressure to give crude crystals. These crystals were combined with the crystals obtained previously, this was followed by recrystallization from ethyl acetate - methanol to afford colorless prisms (0.82 g, 41%), m.p. 235-236° C.

reactant | 2-butyl-1-[(2'-cyanobiphenyl-4-yl)methyl]benzimidazole | 1.8 g | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N)C=CC=C2 | C25H23N3
reactant | sodium azide | 0.98 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 0.80 g | [Cl-].[NH4+]
reactant | sodium azide | 1.6 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 1.3 g | [Cl-].[NH4+]
reactant | water | O | H2O
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Butyl-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]benzimidazole | 0.82 g, 41% | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C=CC=C2 | C25H24N6
